US03937837
7-Hydroxy-4-oxo-2-methyl-4H-1-benzopyran-3-carboxamide.
A slurry of 1 g of 7-hydroxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile in 6 ml of conc. sulfuric acid was heated for 3 hours on the steam bath. The mixture was poured onto ice. The solid was filtered and recrystallized from ethanol, mp 289°-290°C.

reactant | 7-hydroxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile | 1 g | OC1=CC2=C(C(C(=C(O2)C)C#N)=O)C=C1 | C11H7NO3
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Hydroxy-4-oxo-2-methyl-4H-1-benzopyran-3-carboxamide | OC1=CC2=C(C(C(=C(O2)C)C(=O)N)=O)C=C1 | C11H9NO4
